* NMOS/PMOS models from
* https://people.rit.edu/lffeee/SPICE_Examples.pdf
* C:\Users\Daniel\Documents\LTspiceXVII\lib\sym\AutoGenerated\myamp_parameters.asc
.model EENMOS NMOS (VTO=0.4 KP=432E-6 GAMMA=0.2 PHI=.88)
.model EEPMOS PMOS (VTO=-0.4 KP=122E-6 GAMMA=0.2 PHI=.88)

*.subckt myamp_params my_in vdd vss adj ctrl<0> ctrl<1>  ba<0> ba<1> ba<2> ba<3> my_out vdd_internal 
.subckt myamp_params adj ba<3> ba<2> ba<1> ba<0> ctrl<1> ctrl<0> my_in my_out vdd vdd_internal vss

M1 my_out my_in vss vss EENMOS w=0.4u l=0.1u
R1 vdd_internal N001 8k
R2 N001 N002 1k
M6 vdd ctrl<0> vdd_internal vdd_internal EEPMOS w=4u l=.1u
M7 my_out adj N005 N005 EENMOS w=0.4u l=0.1u
M8 N005 ctrl<1> vss vss EENMOS w=4u l=0.1u
M2 N001 ba<0> N002 N002 EEPMOS w=1u l=.1u
R3 N002 N003 1k
M3 N002 ba<1> N003 N003 EEPMOS w=1u l=.1u
R4 N003 N004 2k
M4 N003 ba<2> N004 N004 EEPMOS w=1u l=.1u
R5 N004 my_out 4k
M5 N004 ba<3> my_out my_out EEPMOS w=1u l=.1u

.ends
